US05134134
To 3.25 g (10 mmol) of diethyl E-2-amino-4-phosphonomethyl-hept-3-ene-1,7-dicarboxylate and 10.8 g (100 mmol) of benzyl alcohol are added 10 ml of methylene chloride and 20 ml of 4N ethereal hydrochloric acid, and the mixture is allowed to stand for 1 week. The mixture is then evaporated to dryness, and the residue is dissolved in 25 ml of ethanol. To this solution is then added dropwise a solution of 15 ml of propylene oxide in 15 ml of ethanol. The readily volatile constituents are removed by evaporation under reduced pressure, affording dibenzyl E-2-amino-4-phosphonomethyl-hept-3-ene-1,7-dicarboxylate.

reactant | diethyl E-2-amino-4-phosphonomethyl-hept-3-ene-1,7-dicarboxylate | 10 mmol, 3.25 g | NC(CC(=O)OCC)\C=C(/CCCC(=O)OCC)\CP(=O)(O)O | C14H26NO7P
reactant | benzyl alcohol | 100 mmol, 10.8 g | C(C1=CC=CC=C1)O | C7H8O
reactant | hydrochloric acid | 4N, 20 ml | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | dibenzyl E-2-amino-4-phosphonomethyl-hept-3-ene-1,7-dicarboxylate | NC(CC(=O)OCC1=CC=CC=C1)\C=C(/CCCC(=O)OCC1=CC=CC=C1)\CP(=O)(O)O | C24H30NO7P
